US07705027B2
n-Butyl lithium (1001 μl) was added to a solution of 5-(2,4-bis-benzyloxy-5-bromo-phenyl)-4-(4-methoxy-phenyl)-3-methyl-isoxazole (154 mg, 0.28 mmol) in tetrahydrofuran (2.5 ml) under a nitrogen atmosphere at −78° C. Solution stirred at −70° C. for 30 minutes to give an orange solution. The ion was quenched with methyl chloroformate (100 μl, 3 eq) and allowed to warm to room temperature for 30 minutes. The solution was quenched with saturated aqueous ammonium chloride (5 ml). The mixture was extracted with ethyl acetate (3×5 ml). The combined extracts were washed with water (2×5 ml) and saturated aqueous sodium chloride solution (5 ml). The solution was dried over anhydrous magnesium sulphate and concentrated. The crude products were purified by column chromatography, silica, eluting with ethyl acetate in hexane (gradient 20% to 60% ethyl acetate) to give 2,4-Bis-benzyloxy-5-[4-(4-methoxy-phenyl)-3-methyl-isoxazol-5-yl]-benzoic acid methyl ester (72 mg).

reactant | n-Butyl lithium | 1001 μl | C(CCC)[Li]
reactant | 5-(2,4-bis-benzyloxy-5-bromo-phenyl)-4-(4-methoxy-phenyl)-3-methyl-isoxazole | 0.28 mmol, 154 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Br)C1=C(C(=NO1)C)C1=CC=C(C=C1)OC | C31H26BrNO4
reactant | methyl chloroformate | 100 μl, 3 eq | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
product | 2,4-Bis-benzyloxy-5-[4-(4-methoxy-phenyl)-3-methyl-isoxazol-5-yl]-benzoic acid methyl ester | 72 mg | COC(C1=C(C=C(C(=C1)C1=C(C(=NO1)C)C1=CC=C(C=C1)OC)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C33H29NO6
